US04808605
3.2 ml (0.024 mol) of isobutyl chloroformate are added dropwise at -5° to a solution of 7.0 g (0.024 mol) of 4,5-diphenylimidazole-2-propionic acid and 3.36 ml (0.024 mol) of triethylamine in 80 ml of dimethylformamide. After stirring at 0°-5° for 30 minutes 1.64 g (0.024 mol) of methylamine hydrochloride and 3.36 ml (0.024 mol) of triethylamine in 32 ml of dimethylformamide and 1.65 ml of water are added. The temperature is then left to rise to room temperature and the mixture is stirred for a further 20 hours. After concentration under reduced pressure the residue is boiled up in 250 ml of methanol and treated with 3.6 ml (0.024 mol) of 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU), whereby a clear solution results. 4.8 g of N-methyl-4.5-diphenylimidazole-2-propionamide, m.p. 195°-200° (dec.), result by cooling in an ice-bath. From the mother liquor there are obtained by concentration and treatment with water a further 2 g of the same product, m.p. 195°-200°. Total yield: 6.8 g (93%).

reactant | isobutyl chloroformate | 0.024 mol, 3.2 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 4,5-diphenylimidazole-2-propionic acid | 0.024 mol, 7.0 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)CCC(=O)O | C18H16N2O2
reactant | triethylamine | 0.024 mol, 3.36 ml | C(C)N(CC)CC | C6H15N
reactant | methylamine hydrochloride | 0.024 mol, 1.64 g | Cl.CN
reactant | triethylamine | 0.024 mol, 3.36 ml | C(C)N(CC)CC | C6H15N
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.024 mol, 3.6 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 32 ml | CN(C=O)C | C3H7NO
solvent | water | 1.65 ml | O | H2O
product | N-methyl-4.5-diphenylimidazole-2-propionamide | 4.8 g | CNC(CCC=1NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)=O | C19H19N3O
